US06900196B2
(R)-2-(Boc-amino)-2-phenylethylamine
Using a similar hydrogenolysis procedure to that described as Deprotection Method A, (R)-2-(Boc-amino)-2-phenylethylazide (32.5 g, 124 mmol) in methanol (200 mL) and THF (300 mL) afforded, after chromatography (SiO2, 10:5:1 CH2Cl2, EtOAc, triethylamine), 24.0 g (82%) of the title compound

reactant | (R)-2-(Boc-amino)-2-phenylethylazide | 124 mmol, 32.5 g | C(=O)(OC(C)(C)C)N[C@@H](CN=[N+]=[N-])C1=CC=CC=C1 | C13H18N4O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | 200 mL | CO | CH4O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | (R)-2-(Boc-amino)-2-phenylethylamine | 24.0 g, 82% | C(=O)(OC(C)(C)C)N[C@@H](CN)C1=CC=CC=C1 | C13H20N2O2
